US06054456
A mixture of 4'-(1,2,4-triazol-4-yl)phenylhydrazine (5.0 g, 28.6 mmol) and 5-(4-tert-butyloxycarbonyl)piperazin-1-yl pentanal dimethylacetal (9.03 g, 28.6 mmol) in 4% sulphuric acid (150 ml) was heated at reflux for 48 h. The solution was cooled in an ice-bath, basified with solid K2CO3 and extracted with butan-1-ol (×3). The solvent was removed under vacuum and azeotroped with hexane (×2). The crude product was purified by chromatography on silica gel eluting with CH2Cl2 /MeOH/NH3 (30:8:1) to give the title-indole (3.9 g, 44%). The 3.5 hydrogen oxalate salt was prepared using 200 mg of free base: mp 90-92° C. (Found: C, 45.97; H, 4.76; N, 13.77. C17H22N6.3.5(C2H2O4) requires C, 46.08; H, 4.76; N, 13.43%); δ (360MHz, D2O) 2.12-2.24 (2H, m, CH2); 2.93 (2H, t, J=7Hz, CH2); 3.46-3.76 (8H, m, 4 of CH2); 7.37 (1H, dd, J=1.9 and 8.7Hz, Ar-H); 7.39 (1H, s, Ar-H); 7.66 (1H, d, J=8.7, Ar-H); 7.82 (1H, d, J=1.9Hz, Ar-H); 9.13 (2H, s, Triazole-H).

reactant | 4'-(1,2,4-triazol-4-yl)phenylhydrazine | 28.6 mmol, 5.0 g | C1=CC(=CC=C1NN)N2C=NN=C2 | C8H9N5
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | sulphuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | indole | 3.9 g, 44% | N1C=CC2=CC=CC=C12 | C8H7N
